US07777047B2
ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylate
A mixture of ethyl 2-{[4-(2-methoxyethoxy)-2-nitrophenyl]hydrazono}propanoate (250 mg) and polyphosphoric acid (2.0 g) was stirred at 110° C. for 1 hr. After cooling, water and ethyl acetate were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to basic silica gel column chromatography, and eluted with hexane-ethyl acetate (4:1-2:1, volume ratio) to give the title compound (40 mg, yield 17%) as yellow crystals. The crystals were recrystallized from ethyl acetate-hexane to give yellow prism crystals. melting point 90-91° C.

reactant | ethyl 2-{[4-(2-methoxyethoxy)-2-nitrophenyl]hydrazono}propanoate | 250 mg | COCCOC1=CC(=C(C=C1)NN=C(C(=O)OCC)C)[N+](=O)[O-] | C14H19N3O6
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylate | 40 mg, yield 17% | COCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C14H16N2O6
